US05141930
To a solution of 5.0 g of 2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one in 70 ml of dimethylformamide was added 4.4 g of potassium t-butoxide with stirring under ice-cooling and the mixture was stirred for an hour at room temperature. To the mixture was added 7.1 g of bromoacetaldehyde (2-bromo-1,1-diethoxyethane) dropwise under ice-cooling. The mixture was stirred at 60° C. for 5 hours and poured into chilled water and then extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting oil was chromatographed on a silica gel using chloroform as an eluent to give 2.5 g of 5-(2,2-diethoxyethyl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]-azepin-4-one as a pale yellow oil. To the solution of 2.1 g of 5-(2,2-diethoxyethyl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one in 30 ml of tetrahydrofuran was added 10 ml of 10% hydrochloric acid solution, and the mixture was stirred for 2 hours at room temperature, poured into water and then extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give 1.39 g of 2-methyl-5,6,7,8-tetrahydro-4-oxo-4H-thieno[3,2-c]azepin-5-acetoaldehyde. To the solution of 1.39 g of 2-methyl-5,6,7,8-tetrahydro-4-oxo-4H-thieno[3,2-c]azepin-5-acetoaldehyde in 20 ml of ethanol were added 2.4 g of 4-[bis(4-fluorophenyl)methylene]piperidine and 0.39 g of sodium cyanoborohydride. The mixture was stirred for 2.5 hours at room temperature, poured into chilled water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting orange oil was chromatographed on a silica gel using chloroform as an eluent and the eluate was concentrated under reduced pressure. The resulting residue was dissolved in ethanol and to the solution of the residue was added ethanolic hydrochloric acid to produce its hydrochloride. The precipitated crystals were collected by filtration and recrystallized from methanol to give 5-[2-(4-(bis(4-fluorophenyl)methylene)piperidino)ethyl]-2-methyl-5,6,7,8-tetrahydro-4H -thieno[3,2-c]azepin-4-one hydrochloride as white crystals, melting at 228°-229° C.

reactant | 5-(2,2-diethoxyethyl)-2-methyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one | 2.1 g | C(C)OC(CN1C(C2=C(CCC1)SC(=C2)C)=O)OCC | C15H23NO3S
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-methyl-5,6,7,8-tetrahydro-4-oxo-4H-thieno[3,2-c]azepin-5-acetoaldehyde | 1.39 g | CC1=CC=2C(N(CCCC2S1)CC=O)=O | C11H13NO2S
